US05747422
3-Chloro-2-(4-cyano-3-(2-oxopropoxy)phenyl)-5-trifluoromethyl-pyridine (No. Ia.09)
1.5 g of 3-chloro-2-(4-cyano-3-hydroxyphenyl)-5-trifluoromethyl-pyridine, 1.0 g of chloroacetone, 1.5 g of potassium carbonate, 0.8 g of sodium iodide and 200 ml of acetone were refluxed for 8 hours. The reaction mixture was then concentrated, after which the residue was stirred in 20 ml of water. The insoluble portion was separated off and washed well with water. The crude product was then stirred in succession with n-hexane and with ether. After drying in a vacuum drying oven, 0.4 g of white crystals having a melting point of 146°-147° C. were finally obtained. Yield: 22%.

reactant | 3-chloro-2-(4-cyano-3-hydroxyphenyl)-5-trifluoromethyl-pyridine | 1.5 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)C#N)O | C13H6ClF3N2O
reactant | chloroacetone | 1.0 g | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.8 g | [I-].[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 3-Chloro-2-(4-cyano-3-(2-oxopropoxy)phenyl)-5-trifluoromethyl-pyridine | Yield: 22% | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)C#N)OCC(C)=O | C16H10ClF3N2O2
